US07173033B2
A mixture of 6-(6-azepan-1-yl-1,2,4-triazolo[4,3-b]pyridazin-3-yl)pyridine-2-ol (700 mg) and phosphorus tribromide (7 ml) was stirred at 130° C. for 6 hours. After allowing to cool to room temperature, an ice-water was added, and the mixture was neutralized with saturated aqueous solution of potassium carbonate, and extracted with chloroform. The extract was washed with saturated aqueous solution of sodium hydrogen carbonate and brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent: chloroform:methanol=98:2) and recrystallized from ethanol to obtain 6-azepan-1-yl-3-(6-bromopyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine (240 mg) as colorless crystals.

reactant | 6-(6-azepan-1-yl-1,2,4-triazolo[4,3-b]pyridazin-3-yl)pyridine-2-ol | 700 mg | N1(CCCCCC1)C=1C=CC=2N(N1)C(=NN2)C2=CC=CC(=N2)O | C16H18N6O
reactant | phosphorus tribromide | 7 ml | P(Br)(Br)Br | Br3P
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 6-azepan-1-yl-3-(6-bromopyridin-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 240 mg | N1(CCCCCC1)C=1C=CC=2N(N1)C(=NN2)C2=NC(=CC=C2)Br | C16H17BrN6
